US07700625B2
76C. (2,4-dihydroxy-5-isopropyl-phenyl)-[5-(4-methyl-piperazin-1-yl)-1,3-di-hydro-isoindol-2-yl]-methanone
A mixture of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[5-(4-methyl-piperazin-1-yl)-1,3-dihydro-isoindol-2-yl]-methanone (8.61 g, 15.0 mmol) and 10% Pd/C (1.0 g) in methanol (200 mL) was stirred vigorously under a hydrogen atmosphere (˜1 atm) for 18 h at ambient temperature. The mixture was filtered through a plug of Celite and reduced in vacuo to give a purple oil. This residue was purified by column chromatography using an eluant of DMAW120 to give the title compound as its acetate salt. This salt was taken up in MeOH (30 mL) and to the solution was added saturated HCl in EtOAc (20 mL). This mixture was stirred at ambient for 2 h and the solid formed collected by filtration and dried in vacuo to give the title compound as its hydrochloride salt (2.64 g) as a white solid.

reactant | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[5-(4-methyl-piperazin-1-yl)-1,3-dihydro-isoindol-2-yl]-methanone | 15.0 mmol, 8.61 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=C(C=C2C1)N1CCN(CC1)C | C37H39N3O3
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | (2,4-dihydroxy-5-isopropyl-phenyl)-[5-(4-methyl-piperazin-1-yl)-1,3-di-hydro-isoindol-2-yl]-methanone | OC1=C(C=C(C(=C1)O)C(C)C)C(=O)N1CC2=CC=C(C=C2C1)N1CCN(CC1)C | C23H29N3O3
